US07671033B2
Preparation of 4-Hexyloxybenzyl Chloride
This molecule was synthesized following the same general procedure as that for the preparation of 4-ethoxybenzyl chloride; thionyl chloride (7.17 g, 60.3 mmol), 4-hexyloxybenzyl alcohol (11.3 g, 54.3 mmol), CH2Cl2 (150 mL).

reactant | 4-ethoxybenzyl chloride | C(C)OC1=CC=C(CCl)C=C1 | C9H11ClO
reactant | thionyl chloride | 60.3 mmol, 7.17 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hexyloxybenzyl alcohol | 54.3 mmol, 11.3 g | C(CCCCC)OC1=CC=C(CO)C=C1 | C13H20O2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Hexyloxybenzyl Chloride | C(CCCCC)OC1=CC=C(CCl)C=C1 | C13H19ClO
